US06008230
A mixture of 3-acetyl-4-methoxy-8-nitroquinoline (230 mg), ammonium chloride (30 mg) and iron (313 mg) in ethanol (3 ml) and water (0.8 ml) was refluxed for 2 hours. Insoluble material was filtered off and the filtrate was concentrated in vacuo. The residue was dissolved in ethyl acetate, and the solution was washed with saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo to give 3-acetyl-8-amino-4-methoxyquinoline (175.7 mg).

reactant | 3-acetyl-4-methoxy-8-nitroquinoline | 230 mg | C(C)(=O)C=1C=NC2=C(C=CC=C2C1OC)[N+](=O)[O-] | C12H10N2O4
reactant | ammonium chloride | 30 mg | [Cl-].[NH4+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | 0.8 ml | O | H2O
catalyst | iron | 313 mg | [Fe] | Fe
product | 3-acetyl-8-amino-4-methoxyquinoline | 175.7 mg | C(C)(=O)C=1C=NC2=C(C=CC=C2C1OC)N | C12H12N2O2
